US06509331B1
Synthesis of N-(Cyclopentylacetyl)-L-alanine
Following General Procedure A above using cyclopentylacetic acid (Aldrich) and L-alanine methyl ester hydrochloride (Sigma), the title compound was prepared as a solid having a melting point of 43-46° C. Purification was by recrystallization from ethyl acetate/hexanes.

reactant | cyclopentylacetic acid | C1(CCCC1)CC(=O)O | C7H12O2
reactant | L-alanine methyl ester hydrochloride | Cl.COC([C@@H](N)C)=O
product | N-(Cyclopentylacetyl)-L-alanine | C1(CCCC1)CC(=O)N[C@@H](C)C(=O)O | C10H17NO3
